US06350762B1
2) Synthesis of 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide
652 mg (3.00 mmol) of 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 0.340 ml (3.00 mmol) of 3-chlorobenzaldehyde and 0.030 ml (0.30 mmol) of piperidine were heated under reflux in 25 ml of benzene overnight while water was removed. Benzene was evaporated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 3.00 mmol, 652 mg | O=C(CC(=O)NCC=CC1=CC=CC=C1)C | C13H15NO2
reactant | 3-chlorobenzaldehyde | 3.00 mmol, 0.340 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.30 mmol, 0.030 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
